US06682785B2
2-Propyl-5,6,7-trifluoro-1,2,3,4-tetrahydroanthracene [(Ia) with R4=propyl]
A mixture of 5 mmol of methyltriphenylphosphonium bromide and 5 mmol of butyllithium in 25 ml of tetrahydrofuran which has been reacted to completion at 0° C. was treated over the course of 10 minutes with a solution of 4.5 mmol of 4-propyl-2-(3,4,5-trifluorobenzylidene)cyclohexanone [prepared from 4-propyl-cyclohexanone and 3,4,5-trifluorobenzaldehyde analogously to Walton, J. Org. Chem. 22, 1161 (1957)] in 5 ml of tetrahydrofuran. After 4 hours at room temperature, 50 ml of water were added, the mixture was extracted twice with 25 ml of tert-butyl methyl ether each time, the extract was washed with water and evaporated in a rotary evaporator, and the residue was chromatographed over silica gel with heptane. The resultant crude product [(Z2) from Scheme 1 with R1=propyl, L2=L3=F, X═F) was dissolved in 1 l of benzene and irradiated with a 450 W UV lamp with cooling in a circulation apparatus. After 8 hours, the reaction solution was evaporated in a rotary evaporator, and the residue was chromatographed over silica gel with heptane/ethyl acetate 9:1. Recrystallization from acetonitrile gave colorless crystals.

reactant | butyllithium | 5 mmol | C(CCC)[Li]
reactant | 4-propyl-2-(3,4,5-trifluorobenzylidene)cyclohexanone | 4.5 mmol | C(CC)C1CC(C(CC1)=O)=CC1=CC(=C(C(=C1)F)F)F | C16H17F3O
reactant | 4-propyl-cyclohexanone | C(CC)C1CCC(CC1)=O | C9H16O
reactant | 3,4,5-trifluorobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
catalyst | methyltriphenylphosphonium bromide | 5 mmol | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-Propyl-5,6,7-trifluoro-1,2,3,4-tetrahydroanthracene | C(CC)C1CC2=CC3=CC(=C(C(=C3C=C2CC1)F)F)F | C17H17F3
